US05643878
b) 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(m-fluorophenylmethyl)-hexanoic acid
Analogously to Example 1i), 3.7 g (8.95 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(m-fluorophenylmethyl)-dihydrofuran-2-(3H)-one in 140 ml of dimethoxyethane are hydrolysed with 35.8 ml of 1M lithium hydroxide solution. Extraction of the evaporation residue of the reaction mixture from a mixture of ice, 120 ml of sat. ammonium chloride solution and 240 ml of 10% citric acid solution with a large amount of methylene chloride (solubility!) yields the title compound: tRet (I)=14.6 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(m-fluorophenylmethyl)-dihydrofuran-2-(3H)-one | 8.95 mmol, 3.7 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=CC=C1)F | C24H28FNO4
reactant | lithium hydroxide | 1M, 35.8 ml | [OH-].[Li+]
solvent | dimethoxyethane | 140 ml | C(OC)COC | C4H10O2
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(m-fluorophenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=CC=C1)F)O)CC1=CC=CC=C1 | C24H30FNO5
